US07462624B2
Step B: N-pentyl-5-(3-pyrimidin-4-yl-1H-1,2,4-triazol-5-yl)-1H-imidazol-4-amine
The mixture of methyl 4-(pentylamino)-1H-imidazole-5-carbimidothioate (1.5 g, 6.6 mmol) and pyrimidine-4-carbohydrazide (1.2 g, 8.7 mmol) in ethanol (10 mL) was refluxed overnight. The reaction mixture was concentrated under reduced pressure to yield the desired product as light green viscous oil. LCMS calculated for C14H19N8 (M+H): 299.2; found: 299.1.

reactant | methyl 4-(pentylamino)-1H-imidazole-5-carbimidothioate | 6.6 mmol, 1.5 g | C(CCCC)NC=1N=CNC1C(=N)SC | C10H18N4S
reactant | pyrimidine-4-carbohydrazide | 8.7 mmol, 1.2 g | N1=CN=C(C=C1)C(=O)NN | C5H6N4O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-pentyl-5-(3-pyrimidin-4-yl-1H-1,2,4-triazol-5-yl)-1H-imidazol-4-amine | C(CCCC)NC=1N=CNC1C1=NC(=NN1)C1=NC=NC=C1 | C14H18N8
